US05646310
In the same manner as described in Example 3 (6) but using ethyl 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylate, potassium pentafluoropropionate, cuprous iodide, toluene and N,N-dimethylformamide, ethyl 6-pentafluoroethyl-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylate was obtained as an oily substance.

reactant | ethyl 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylate | FCC1(OC2=C(C(=C1)C(=O)OCC)C=C(C=C2)I)CF | C14H13F2IO3
reactant | potassium pentafluoropropionate | FC(C(C(=O)[O-])(F)F)(F)F.[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 6-pentafluoroethyl-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylate | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)OCC)C1)F | C16H13F7O3
